US04465502
Preparation of 2,4-Dimethyl-2-(2-methyl-N-methylanilino)dioxolane
10.0 g (0.048 mole) of 2,4-dimethyl-2-(2-methylanilino)dioxolane was dissolved in about 150 ml of tetrahydrofuran and then cooled to -60° C. 30.15 ml of 1.6 molar n-butyl lithium in hexane (0.048 mole of n-butyl lithium) was added and the temperature of the mixture allowed to raise to 0° C. 4.6 ml (0.048 mole) of dimethyl sulfate was added dropwise at about 0°-10° C. The temperature of the mixture was allowed to raise to 25° C., then refluxed for 3 hours and then stirred overnight (about 15 hours) at room temperature. The mixture was then mixed with about 500 ml of water and extracted with ethyl ether. The ethyl ether extracts were combined, dried over magnesium sulfate and evaporated to dryness affording the title compound as an oil.

reactant | 2,4-dimethyl-2-(2-methylanilino)dioxolane | 0.048 mole, 10.0 g | CC1(OCC(O1)C)NC1=C(C=CC=C1)C | C12H17NO2
reactant | n-butyl lithium | 1.6 molar, 30.15 ml | C(CCC)[Li]
reactant | hexane | 0.048 mole | CCCCCC | C6H14
reactant | dimethyl sulfate | 0.048 mole, 4.6 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | tetrahydrofuran | about 150 ml | O1CCCC1 | C4H8O
solvent | water | about 500 ml | O | H2O
product | 2,4-Dimethyl-2-(2-methyl-N-methylanilino)dioxolane | CC1(OCC(O1)C)N(C1=C(C=CC=C1)C)C | C13H19NO2
